US05532240
The reaction and procedure were conducted in a similar manner as in Example 24 using 1.0 g of 6-acetyl-3-(4-chlorobutyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine and 0.9 g of 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine hydrochloride to give 0.5 g of 6-acetyl-3-(4-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)butyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine as an oil, m.p. 158°-160° C. as 3/2oxalate thereof.

reactant | 6-acetyl-3-(4-chlorobutyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine | 1.0 g | C(C)(=O)N1CC2=C(CC1)C(=C(S2)C)CCCCCl | C14H20ClNOS
reactant | 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine hydrochloride | 0.9 g | Cl.FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1
product | 6-acetyl-3-(4-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)butyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine | 0.5 g | C(C)(=O)N1CC2=C(CC1)C(=C(S2)C)CCCCN2CCC(CC2)C2=NOC1=C2C=CC(=C1)F | C26H32FN3O2S
